US04012513
A stirred suspension of sodium hydride (0.24g.) in dry dimethylformamide (20ml.; dried with calcium hydride) was treated at 5°-10° C. with a solution of ethyl 2-methyl-5-methoxyindol-3-ylacetate (2.3g.) in dry dimethylformamide (10ml.). The mixture was stirred at 25°-30° C. for 15 minutes, and the solution obtained was treated with a freshly prepared solution of 4-chloroquinazoline (1.65g.) in dry dimethylformamide (10ml.). The mixture was stirred at 30°-40° C, for 4 hours, and then poured into water (500ml.). The mixture was extracted with ethyl acetate (4 × 100ml.) and the extracts washed successively with water (2 × 100ml.) and brine (100ml.), and then dried (sodium sulphate). Evaporation of solvent gave an oil which was purified by chromatography on silica gel (250g.) using an increasing gradient of ether in petroleum ether (b.p. 40°-60° C.) (the polarity increased by incremental addition of 10% v/v ether) to give ethyl 5-methoxy-2-methyl-1-(quinazolin-4-yl)indol-3-ylacetate, m.p. 121°-123° C.

reactant | sodium hydride | 0.24g | [H-].[Na+]
reactant | ethyl 2-methyl-5-methoxyindol-3-ylacetate | 2.3g | CC=1NC2=CC=C(C=C2C1CC(=O)OCC)OC | C14H17NO3
reactant | 4-chloroquinazoline | 1.65g | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
reactant | water | 500ml | O | H2O
solvent | dimethylformamide | 20ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10ml | CN(C=O)C | C3H7NO
product | ethyl 5-methoxy-2-methyl-1-(quinazolin-4-yl)indol-3-ylacetate | COC=1C=C2C(=C(N(C2=CC1)C1=NC=NC2=CC=CC=C12)C)CC(=O)OCC | C22H21N3O3
